US04973697
Into a 200 ml egg-plant type flask, 785.2 mg (4.06 mmol) of 2-chloropyridine-6-sulfonic acid was charged, then dissolved with an addition of 2 ml of water and neutralized with an aqueous lithium hydroxide solution. The solvent was distilled off under reduced pressure, and after an addition of 100 ml of 2-propanol, the mixture was heated. Insoluble matters were removed by filtration, and the solvent was distilled under reduced pressure to obtain 725 mg (89.5%) of lithium 2-chloropyridine-6-sulfonate as crystalline solid. Purification was conducted by recrystallization from 2-propanol.

reactant | 2-chloropyridine-6-sulfonic acid | 4.06 mmol, 785.2 mg | ClC1=NC(=CC=C1)S(=O)(=O)O | C5H4ClNO3S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | water | 2 ml | O | H2O
product | lithium 2-chloropyridine-6-sulfonate | 725 mg, 89.5% | ClC1=NC(=CC=C1)S(=O)(=O)[O-].[Li+] | InChI=1S/C5H4ClNO3S.Li/c6-4-2-1-3-5(7-4)11(8,9)10;/h1-3H,(H,8,9,10);/q;+1/p-1
